US08604024B2
Step 44A. (E)-5-Cyano-N-(8-(hydroxymethyl)-9-methyl-6,7-dihydro-5H-benzo[7]annulen-2-yl)picolinamide
In a manner similar to the procedure of step 3A, (E)-(2-amino-9-methyl-6,7-dihydro-5H-benzo[7]annulen-8-yl)methanol from preparation J was coupled with 5-cyanopicolinic acid to afford the titled compound of Step 44A. 1H NMR (500 HMz, chloroform-d) δ 9.84 (s, 1H), 8.90 (dd, J=2.0, 0.8 Hz, 1H), 8.45 (dd, J=8.1, 0.8 Hz, 1H), 8.21 (dd, J=8.1, 2.0 Hz, 1H), 7.68 (d, J=2.3 Hz, 1H), 7.56 (dd, J=8.1, 2.3 Hz, 1H), 7.21 (d, J=8.2 Hz, 1H), 4.41 (s, 2H), 2.56 (t, J=7.0 Hz, 2H), 2.16 (s, 3H), 2.12 (quin, J=7.1 Hz, 2H), 2.02-1.96 (m, 2H), 1.57 (br. s., 1H).

reactant | (E)-(2-amino-9-methyl-6,7-dihydro-5H-benzo[7]annulen-8-yl)methanol | NC=1C=CC2=C(/C(=C(\CCC2)/CO)/C)C1 | C13H17NO
reactant | 5-cyanopicolinic acid | C(#N)C=1C=CC(=NC1)C(=O)O | C7H4N2O2
product | (E)-5-Cyano-N-(8-(hydroxymethyl)-9-methyl-6,7-dihydro-5H-benzo[7]annulen-2-yl)picolinamide | C(#N)C=1C=CC(=NC1)C(=O)NC=1C=CC2=C(/C(=C(\CCC2)/CO)/C)C1 | C20H19N3O2
